US08067406B2
1.03 g of 1-(2-(2-(1-benzothiophene-5-yl)ethoxy)ethyl)-3-azetidinol was dissolved in 4.2 ml of ethyl acetate. Thereafter, 0.86 ml of an ethyl acetate solution containing 4.76 mol/l dry hydrogen chloride was added to the obtained solution, and the obtained mixture was stirred at a room temperature for 1 hour, and then at 5° C. for 1 hour. Thereafter, precipitated crystals were collected by filtration, washed with ethyl acetate, and then dried, so as to obtain 0.98 g of 1-(2-(2-(1-benzothiophene-5-yl)ethoxy)ethyl)-3-azetidinol hydrochloride.

reactant | 1-(2-(2-(1-benzothiophene-5-yl)ethoxy)ethyl)-3-azetidinol | 1.03 g | S1C=CC2=C1C=CC(=C2)CCOCCN2CC(C2)O | C15H19NO2S
reactant | hydrogen chloride | 4.76 mol/l | Cl | ClH
solvent | ethyl acetate | 4.2 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 0.86 ml | C(C)(=O)OCC | C4H8O2
product | 1-(2-(2-(1-benzothiophene-5-yl)ethoxy)ethyl)-3-azetidinol hydrochloride | 0.98 g | Cl.S1C=CC2=C1C=CC(=C2)CCOCCN2CC(C2)O | InChI=1S/C15H19NO2S.ClH/c17-14-10-16(11-14)5-7-18-6-3-12-1-2-15-13(9-12)4-8-19-15;/h1-2,4,8-9,14,17H,3,5-7,10-11H2;1H
